US06858651B2
To 1 g (3.19 mmol) trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pentanoic acid in 37 ml CH2Cl2 was added 0.5 ml (4.8 mmol, 1.5 eq) diethylamine and 0.53 ml (4.79 mmol, 1.5 eq) NMM. The solution was cooled to 0° C. and 795 mg (4.15 mmol, 1.3 eq) EDCI and 98 mg (6.4 mmol) HOBT were added. The mixture was stirred at RT over night, partitioned between CH2Cl2 and a saturated aqueous solution of NaHCO3. The organic phase was washed with KHSO4 and brine, dried over Na2SO4 and evaporated. Column chromatography with EtOAc/hexane 1:1 gave 1.05 g (86%) trans-[4-(4-Diethylcarbamoyl-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester as colorless liquid MS: 369 (MH+).

reactant | trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pentanoic acid | 3.19 mmol, 1 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CCCCC(=O)O)C | C17H31NO4
reactant | diethylamine | 4.8 mmol, 0.5 ml, 1.5 eq | C(C)NCC | C4H11N
reactant | NMM | 4.79 mmol, 0.53 ml, 1.5 eq | CN1CCOCC1 | C5H11NO
reactant | EDCI | 4.15 mmol, 795 mg, 1.3 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 6.4 mmol, 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 37 ml | C(Cl)Cl | CH2Cl2
product | trans-[4-(4-Diethylcarbamoyl-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 1.05 g, 86% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCC(N(CC)CC)=O)=O | C21H40N2O3
